US04563472
1-(2',3',3'-Triiodoallyl)-2-methoxycarbonylpyrrole
To a solution of 125 mg (1 mmole) of methyl pyrrole-2-carboxylate in 5 ml of dry N,N-dimethylformamide were added 590 mg (1 mmole) of 2,3,3-triiodoallyl-p-toluenesulfonate and 50 mg (1.2 mmoles) of powdery sodium hydroxide while cooling at 10° C. and the resulting mixture was stirred for one hour. The reaction mixture was extracted with ethyl acetate and water, the ethyl acetate layer was separated, washed with water and then dried. The ethyl acetate layer was concentrated under reduced pressure, the residual oily substance was allowed to stand with 1.0 ml of methanol, thereby separating a crystalline substance, 1-(2',3',3'-triiodoallyl)-2-methoxycarbonylpyrrole. It was then recovered by filtration. Yield 127 mg (23% yield), mp 88°-90° C.

reactant | methyl pyrrole-2-carboxylate | 1 mmole, 125 mg | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | 2,3,3-triiodoallyl-p-toluenesulfonate | 1 mmole, 590 mg | IC(COS(=O)(=O)C1=CC=C(C=C1)C)=C(I)I | C10H9I3O3S
reactant | sodium hydroxide | 1.2 mmoles, 50 mg | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2',3',3'-Triiodoallyl)-2-methoxycarbonylpyrrole | 23% yield | IC(CN1C(=CC=C1)C(=O)OC)=C(I)I | C9H8I3NO2
